*TB LELO_5TOTA_PMOS — Transient Response (1 kHz differential sine, 10 periods)
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_5TOTA_PMOS_lpe.spi
#else
.include ../../../work/xsch/LELO_5TOTA_PMOS.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3
.temp 27

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD       = 1.8
.param vcm        = 0.3
.param ibias_val  = 6u

* Differential sine input
.param fin        = 1k
.param vdiff_pk   = 2m

*-----------------------------------------------------------------
* SOURCES
*-----------------------------------------------------------------
VSS     VSS     0       dc 0
VDD     VDD     0       dc {AVDD}

* Differential sinusoidal drive around common-mode
* Each input gets half the total differential amplitude
VVINP   VINP    0       SIN({vcm} {vdiff_pk/2} {fin})
VVINM   VINN    0       SIN({vcm} {-vdiff_pk/2} {fin})

* Bias current into IBIAS node
IIBIAS  IBIAS   VSS     dc {ibias_val}  $ PMOS diode: drain current from IBIAS to VSS

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* NODESET — helps startup
*----------------------------------------------------------------
.nodeset v(vout)       = 1.05
.nodeset v(xdut.net1)  = 0.45
.nodeset v(xdut.net2)  = 0.80
.nodeset v(ibias)      = 0.55

*----------------------------------------------------------------
* SAVE
*----------------------------------------------------------------
.save all
.save v(VDD) v(VSS) v(VINP) v(VINN) v(IBIAS) v(VOUT)
.save v(xdut.net1) v(xdut.net2)
.save i(VDD) i(IIBIAS)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
unset askquit

op

echo "================================================"
echo "  5T OTA — TRANSIENT ANALYSIS"
echo "================================================"
echo ""
echo "--- Initial OP values ---"
print v(vdd) v(vss)
print v(vinp) v(vinn)
print v(ibias)
print v(xdut.net1) v(xdut.net2) v(vout)
echo ""

* 1 kHz => 1 ms period
* 10 periods => 10 ms total simulation time
* Time step 1u = 1000 points/period — sufficient resolution for 10th harmonic
tran 1u 10m

* ---- THD via Fourier decomposition ----
* fourier uses the last 1/fund_freq seconds of data (i.e. the last settled period)
* nfreqs = 10 → compute fundamental + harmonics H2…H10
* Output: magnitude/phase of each harmonic and THD in percent
set nfreqs=10
fourier 1000 v(vout)

echo "================================================"
echo "  FINAL VALUES AT END OF TRANSIENT"
echo "================================================"
print v(vinp) v(vinn)
print v(ibias)
print v(xdut.net1) v(xdut.net2) v(vout)
echo ""
echo "--- Device currents at final point ---"
print @m.xdut.xm2.msky130_fd_pr__pfet_01v8[id]
print @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
print @m.xdut.xm3.msky130_fd_pr__nfet_01v8[id]
print @m.xdut.xm4.msky130_fd_pr__nfet_01v8[id]
print @m.xdut.xm5.msky130_fd_pr__pfet_01v8[id]
print @m.xdut.xm6.msky130_fd_pr__pfet_01v8[id]

write {cicname}.raw
quit
.endc

.end
